### PR TITLE
has_been_received_in_state

### PR DESCRIPTION
**Pull request by h0nzZik**

### CODE REVIEW

File: VLSM/Equivocation.v [hunk 1]
```diff
@@ -2211,3 +2211,133 @@ Section has_been_sent_irrelevance.
   Qed.
 
 End has_been_sent_irrelevance.
+
+Lemma preloaded_weaken_finite_protocol_trace_from
+      {message : Type} (X : VLSM message) (from : state) (tr : list transition_item) :
+  finite_protocol_trace_from X from tr ->
+  finite_protocol_trace_from (pre_loaded_with_all_messages_vlsm X) from tr.
```
Comment (traiansf) [inline VLSM/Equivocation.v:2218]: this can be proved by simply using (`VLSM_incl_finite_protocol_trace_from` and `vlsm_incl_pre_loaded_with_all_messages_vlsm`)

File: VLSM/Equivocation.v [hunk 2]
```diff
@@ -2211,3 +2211,133 @@ Section has_been_sent_irrelevance.
...
+    + auto.
+    + apply (@preloaded_weaken_protocol_transition _ X).
+      exact H3.
+Qed.
+
+Lemma preloaded_weaken_finite_protocol_trace_from_to
+      {message : Type} (X : VLSM message) (from to : state) (tr : list transition_item) :
+  finite_protocol_trace_from_to X from to tr ->
+  finite_protocol_trace_from_to (pre_loaded_with_all_messages_vlsm X) from to tr.
+Proof.
```
Comment (traiansf) [inline VLSM/Equivocation.v:2239]: same as above, but using `VLSM_incl_finite_protocol_trace_from_to`

**Review by traiansf — CHANGES_REQUESTED** [review]

**Review by traiansf — APPROVED** [review]
Looks good to me. I would still suggest to move the first two lemmas into VLSM/VLSMProjections.v, as they would fit better there.
